US09302991B2
<Step-1>: methyl 2-isobutyramido-6-methylpyrimidine-4-carboxylate
The title compound is prepared in 88% yield (1.1 g, a yellow solid) from methyl 2-chloro-6-methylpyrimidine-4-carboxylate (1.0 g, 5.4 mmol) and isobutyramide by the similar manner in Step-1 of Carboxylic acid-4.

reactant | methyl 2-chloro-6-methylpyrimidine-4-carboxylate | 5.4 mmol, 1.0 g | ClC1=NC(=CC(=N1)C(=O)OC)C | C7H7ClN2O2
reactant | isobutyramide | C(C(C)C)(=O)N | C4H9NO
product | methyl 2-isobutyramido-6-methylpyrimidine-4-carboxylate | 88% yield | C(C(C)C)(=O)NC1=NC(=CC(=N1)C(=O)OC)C | C11H15N3O3
